US08236808B2
Step 2: 3,5-Diamino-6-chloro-pyrazine-2-carboxylic acid {(S)-2-amino-6-[3-(4-benzyloxy-phenyl)-propionylamino]-hexyl}-amide hydrochloride
A solution of ((S)-5-[3-(4-benzyloxy-phenyl)-propionylamino]-1-{[(3,5-diamino-6-chloro-pyrazine-2-carbonyl)-amino]-methyl}-pentyl)-carbamic acid tert-butyl ester (0.29 g, 0.45 mmol) in 1,4-dioxane (3 mL) and HCl (5 mL of a 4 M solution in 1,4-dioxane, 20 mmol) is stirred at RT for 2 h. The solvent is removed in vacuo and the resulting residue is triturated with diethyl ether and then the diethyl ether is decanted. The remaining solid is dissolved in a minimal amount of MeOH then diethyl ether is added to cause precipitation. The supernatant solvents are decanted and the remaining solid is washed with diethyl ether then dried under vacuum to afford the title compound as yellow solid. [M+H]+ 540.

reactant | ((S)-5-[3-(4-benzyloxy-phenyl)-propionylamino]-1-{[(3,5-diamino-6-chloro-pyrazine-2-carbonyl)-amino]-methyl}-pentyl)-carbamic acid tert-butyl ester | 0.45 mmol, 0.29 g | C(C)(C)(C)OC(N[C@@H](CCCCNC(CCC1=CC=C(C=C1)OCC1=CC=CC=C1)=O)CNC(=O)C1=NC(=C(N=C1N)N)Cl)=O | C32H42ClN7O5
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | HCl | Cl | ClH
product | 3,5-Diamino-6-chloro-pyrazine-2-carboxylic acid {(S)-2-amino-6-[3-(4-benzyloxy-phenyl)-propionylamino]-hexyl}-amide hydrochloride | Cl.N[C@H](CNC(=O)C1=NC(=C(N=C1N)N)Cl)CCCCNC(CCC1=CC=C(C=C1)OCC1=CC=CC=C1)=O | InChI=1S/C27H34ClN7O3.ClH/c28-24-26(31)35-25(30)23(34-24)27(37)33-16-20(29)8-4-5-15-32-22(36)14-11-18-9-12-21(13-10-18)38-17-19-6-2-1-3-7-19;/h1-3,6-7,9-10,12-13,20H,4-5,8,11,14-17,29H2,(H,32,36)(H,33,37)(H4,30,31,35);1H/t20-;/m0./s1
